US05089507
A suspension of 9.6 g (0.054 moles) of 3-chloro-5,5-dimethyl-2-oxoperhydroazepine and 18.98 g (0.054 moles) of Ba(OH)2.8H2O in 250 ml of water, was heated in a Parr apparatus at 110° C. for 2 hours. Then, 7.22 g (0.054 moles) of ammonium sulphate were added. The precipitate was filtered off, and the solution was evaporated in vacuo to dryness. The residue was treated with hot 2-propanol and filtered to afford a white solid which was dissolved in water and passed over an ion-exchange column (Dovex 50). The residual salts were removed with 200 ml of water and the aminoacid was eluted with 2N ammonium hydroxide to yield 6.0 g of 4,4-dimethyl pipecolic acid. M.P. >300° C. (dec.).

reactant | 3-chloro-5,5-dimethyl-2-oxoperhydroazepine | 0.054 moles, 9.6 g | ClC1C(NCCC(C1)(C)C)=O | C8H14ClNO
reactant | ammonium sulphate | 0.054 moles, 7.22 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | water | 250 ml | O | H2O
product | 4,4-dimethyl pipecolic acid | 6.0 g | CC1(CC(NCC1)C(=O)O)C | C8H15NO2
